US08071779B2
tert-Butyl 3-(4-(4-Amino-1,2,5-oxadiazol-3-yl)phenylamino)piperidine-1-carboxylate
Reaction of tert-butyl 3-oxopiperidine-1-carboxylate and 4-(4-aminophenyl)-1,2,5-oxadiazol-3-amine using the method of Example 3 afforded the title compound.

reactant | tert-butyl 3-oxopiperidine-1-carboxylate | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 4-(4-aminophenyl)-1,2,5-oxadiazol-3-amine | NC1=CC=C(C=C1)C=1C(=NON1)N | C8H8N4O
product | tert-Butyl 3-(4-(4-Amino-1,2,5-oxadiazol-3-yl)phenylamino)piperidine-1-carboxylate | NC=1C(=NON1)C1=CC=C(C=C1)NC1CN(CCC1)C(=O)OC(C)(C)C | C18H25N5O3
